US03959289
Di(tris-hydroxymethyl)methylammoniumpyrido[3,2-g]quinoline-2,8-dicarboxylat
To a solution of 5 gm. of di(tris-hydroxymethyl) methylammonium 10-chloro-1,4,6,9-tetrahydro-4,6-dioxopyrido[4,3-g]quinoline-2,8-dicarboxylate in 100 ml. of water is added 2.0 g. of 5% palladium-on-charcoal catalyst and 5.0 g. of magnesium oxide. The resulting mixture is hydrogenated at an initial pressure of 3 atmospheres of hydrogen until 1 mole of hydrogen has been absorbed. The mixture is filtered and the filtrate acidified by the addition of dilute hydrochloric acid. The resulting precipitate is removed by filtration. The 1,4,6,9-tetrahydro-4,6-dioxopyrido[3,2-g]quinoline-2,8-dicarboxylic acid obtained is converted to di(tris-hydroxymethyl)methylammonium 1,4,6,9-tetrahydro-4,6-dioxopyrido[3,2-g]quinoline-2,8-dicarboxylate by adding two equivalents of (tris-hydroxymethyl)methylamine in aqueous solution. The crystalline product is recovered after addition of methanol.

reactant | di(tris-hydroxymethyl)methylammonium 1,4,6,9-tetrahydro-4,6-dioxopyrido[3,2-g]quinoline-2,8-dicarboxylate | O=C1C=C(NC2=CC3=C(C=C12)C(C=C(N3)C(=O)[O-])=O)C(=O)[O-].OC(O)(O)[NH+](C)C(O)(O)O.OC(O)(O)[NH+](C(O)(O)O)C
reactant | (tris-hydroxymethyl)methylamine | two equivalents | OC(O)(O)NC | C2H7NO3
product | Di(tris-hydroxymethyl)methylammoniumpyrido[3,2-g]quinoline-2,8-dicarboxylat | N1=C(C=CC2=CC3=C(C=C12)N=C(C=C3)C(=O)[O-])C(=O)[O-].OC(O)(O)[NH+](C)C(O)(O)O.OC(O)(O)[NH+](C(O)(O)O)C | InChI=1S/C14H8N2O4.2C3H9NO6/c17-13(18)9-3-1-7-5-8-2-4-10(14(19)20)16-12(8)6-11(7)15-9;2*1-4(2(5,6)7)3(8,9)10/h1-6H,(H,17,18)(H,19,20);2*5-10H,1H3
